US06451814B1
4-(4-{2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide (0.50 g, 1.18 mmol) was reacted with (2R)-2-(3-chlorophenyl)oxirane (0.183 g, 1.18 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.063 g, 0.19 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide | 1.18 mmol, 0.50 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1 | C22H38N4O
reactant | (2R)-2-(3-chlorophenyl)oxirane | 1.18 mmol, 0.183 g | ClC=1C=C(C=CC1)[C@H]1OC1 | C8H7ClO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.19 mmol, 0.063 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@H](O)C1=CC(=CC=C1)Cl | C30H45ClN4O2
